US09403768B2
((S)-1-{(S)-2-[(S)-2-(5-Fluoro-2-methyl-benzylcarbamoyl)-2,3-dihydro-indol-1-yl]-2-oxo-1-phenyl-ethylcarbamoyl}-ethyl)-methyl-carbamic acid tert-butyl ester (48 mg) was suspended in a 1:1 mixture of 4 M HCl in dioxane) and DCM and stirred at rt for 1 h. The solvent was removed in vacuo and the resulting solid was dissolved in CH3CN and water (3:1), and lyophilized to give (S)-1-[(S)-2-((S)-2-methylamino-propionylamino)-2-phenyl-acetyl]-2,3-dihydro-1H-indole-2-carboxylic acid 5-fluoro-2-methyl-benzylamide hydrochloride salt as a white powder (44 mg), m/z=503 (M+H).

reactant | ((S)-1-{(S)-2-[(S)-2-(5-Fluoro-2-methyl-benzylcarbamoyl)-2,3-dihydro-indol-1-yl]-2-oxo-1-phenyl-ethylcarbamoyl}-ethyl)-methyl-carbamic acid tert-butyl ester | 48 mg | C(C)(C)(C)OC(N(C)[C@@H](C)C(N[C@H](C(=O)N1[C@@H](CC2=CC=CC=C12)C(NCC1=C(C=CC(=C1)F)C)=O)C1=CC=CC=C1)=O)=O | C34H39FN4O5
reactant | HCl | 4 M | Cl | ClH
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (S)-1-[(S)-2-((S)-2-methylamino-propionylamino)-2-phenyl-acetyl]-2,3-dihydro-1H-indole-2-carboxylic acid 5-fluoro-2-methyl-benzylamide hydrochloride salt | 44 mg | Cl.FC=1C=CC(=C(CNC(=O)[C@H]2N(C3=CC=CC=C3C2)C([C@H](C2=CC=CC=C2)NC([C@H](C)NC)=O)=O)C1)C | InChI=1S/C29H31FN4O3.ClH/c1-18-13-14-23(30)15-22(18)17-32-28(36)25-16-21-11-7-8-12-24(21)34(25)29(37)26(20-9-5-4-6-10-20)33-27(35)19(2)31-3;/h4-15,19,25-26,31H,16-17H2,1-3H3,(H,32,36)(H,33,35);1H/t19-,25-,26-;/m0./s1
